US05641777
A) 1-Benzyl-4-cyano-4-(morpholin-4-yl)piperidine
2.5 ml of morpholine and then 5.1 g of Na2S2O5 are added to a mixture of 5 g of 1-benzylpiperid-4-one and 1.9 g of potassium cyanide in 50 ml of an EtOH/water mixture (50/50; v/v) and the mixture is heated at 60° C. for 2 hours. A further 2.5 ml of morpholine are added and the reaction mixture is stirred overnight at RT. Water is added and the crystalline product formed is wrung to give 5.5 g of of the expected product.

reactant | morpholine | 2.5 ml | N1CCOCC1 | C4H9NO
reactant | 1-benzylpiperid-4-one | 5 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | potassium cyanide | 1.9 g | [C-]#N.[K+]
reactant | morpholine | 2.5 ml | N1CCOCC1 | C4H9NO
reactant | Water | O | H2O
solvent | ether AcOEt | 50 ml | CCOCC.CCOC(=O)C
product | 1-Benzyl-4-cyano-4-(morpholin-4-yl)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(N1CCOCC1)C#N | C17H23N3O
